* source TLV3601
.EXTERNAL INPUT IN+
.EXTERNAL INPUT IN-
.EXTERNAL INPUT V+
.EXTERNAL INPUT OUT
.EXTERNAL INPUT V-
X_U1         IN+ IN- V+ V- OUT TLV3601
V_V+1         V- 0 -2.5
V_VINN         IN- 0 0
V_V+         V+ 0 2.5
V_V1         IN+ 0  
+SIN 0 100m 500k 0 0 0
R_R3         V- OUT  1k TC=0,0 
